US07858796B2
(268) 5-phenyl-3-[1-(2-thienylsulfonyl)-4-piperidinyl]-1H-indole-7-carboxamide
Following the general procedure in example 267, 5-(phenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide (40 mg, 0.12 mmol), 2-thiophenesulfonyl chloride (23 mg, 0.13 mmol) and triethylamine (0.07 mL, 0.5 mmol) were reacted to form the desired product which was purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) (30 mg, 52%).

reactant | 5-(phenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.12 mmol, 40 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | 2-thiophenesulfonyl chloride | 0.13 mmol, 23 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | TEA | 0.5 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
product | 5-phenyl-3-[1-(2-thienylsulfonyl)-4-piperidinyl]-1H-indole-7-carboxamide | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)C=1SC=CC1 | C24H23N3O3S2
